US07446117B2
2-[4-(methylsulfonyl)phenyl]-4-methylpyridine
To a mixture of 2-chloro-4-methylpyridine (3 g, 23.5 mmol), 4-(methylsulfonyl)phenylboronic acid (5.64 g, 28.2 mmol), potassium phosphate (12.0 g, 56.4 mmol) and DMF (50 mL) under an atmosphere of nitrogen was added palladium tetrakistriphenylphosphine (1.36 g, 1.18 mmol). After heating at 120° C. for 14 hours, the reaction was cooled and the DMF removed in vacuo. The residue was partitioned between ethyl acetate (100 mL) and water (100 mL), separated and the organic layer dried over sodium sulfate and concentrated in vacuo. Purification by silica chromatography eluting with a gradient of ethyl acetate in cyclohexane gave the title compound (4.29 g, 74%) TLC RF 0.19 (1:1 ethyl acetate:cyclohexane) LC retention time 2.36 mins, MS m/z 248 (MH+)

reactant | 2-chloro-4-methylpyridine | 23.5 mmol, 3 g | ClC1=NC=CC(=C1)C | C6H6ClN
reactant | 4-(methylsulfonyl)phenylboronic acid | 28.2 mmol, 5.64 g | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | potassium phosphate | 56.4 mmol, 12.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-[4-(methylsulfonyl)phenyl]-4-methylpyridine | 4.29 g, 74% | CS(=O)(=O)C1=CC=C(C=C1)C1=NC=CC(=C1)C | C13H13NO2S
